US06197826B1
Synthesis of α-(5-Bromo-2-hydroxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 1 using 5-bromo-2-hydroxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 68.7% yield as a yellow crystalline solid, m.p. 118.7° C. (Rf=0.65 on a silica gel plate using 1:1 EtOAc/hexanes as an eluant).

reactant | 5-bromo-2-hydroxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(5-Bromo-2-hydroxyphenyl)-N-tert-butylnitrone | BrC=1C=CC(=C(C1)C=[N+]([O-])C(C)(C)C)O | C11H14BrNO2
